US04053615
48.56 Grams of furfurylamine and 200 milliliters of methyl acrylate are refluxed together for 84 hours. The excess methyl acrylate is evaporated off to give 133.46 grams of N,N-di(2-methoxycarbonylethyl)furfurylamine.

reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | methyl acrylate | 200 milliliters | C(C=C)(=O)OC | C4H6O2
product | N,N-di(2-methoxycarbonylethyl)furfurylamine | 133.46 grams | COC(=O)CCN(CCC(=O)OC)CC1=CC=CO1 | C13H19NO5
